US20010011090A1
A mixture of ethyl 5-(5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylate, ethyl iodide, potassium carbonate and DMF was stirred at room temperature for 9 hours. The residue obtained by a usual treatment was eluted by silica gel chromatography (eluent; n-hexane:ethyl acetate=15:1) to give ethyl 5-(1-ethyl-5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylate as colorless needle crystals. Also, by changing the eluent of the silica gel chromatography to n-hexane:ethyl acetate= 10:1, ethyl 5-(1-ethyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carboxylate was obtained as a light yellow oil. By hydrolyzing these compounds with a base in the usual way, a) 5-(l-ethyl-5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylic acid and b) 5-(1-ethyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carboxylic acid were obtained.

reactant | ethyl 5-(5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylate | FC(C1=CC(=NN1)C1=CC=C(S1)C(=O)OCC)(F)F | C11H9F3N2O2S
reactant | ethyl iodide | C(C)I | C2H5I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 5-(1-ethyl-5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylate | C(C)N1N=C(C=C1C(F)(F)F)C1=CC=C(S1)C(=O)OCC | C13H13F3N2O2S
